US07049438B2
A mixture of 3,5-dimethoxyaniline hydrochloride (54.7 g), oxalyl chloride (54 ml) and methanol (500 ml) was stirred and heated to reflux for 1.5 hours. The mixture was cooled to ambient temperature. The precipitate was isolated, washed in turn with methanol and diethyl ether and dried under vacuum to give 4,6-dimethoxy-2,3-dioxoindoline (55 g); NMR Spectrum: (DMSOd6) 3.85 (s, 3H), 3.9 (s, 3H), 6.0 (s, 1H), 6.2 (s, 1H), 10.9 (s, 1H); Mass Spectrum: M+Na+ 230.

reactant | 3,5-dimethoxyaniline hydrochloride | 54.7 g | Cl.COC=1C=C(N)C=C(C1)OC
reactant | oxalyl chloride | 54 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methanol | 500 ml | CO | CH4O
product | 4,6-dimethoxy-2,3-dioxoindoline | 55 g | COC1=C2C(C(NC2=CC(=C1)OC)=O)=O | C10H9NO4
